US04563449
To a suspension of sodium 2-allyloxyimino-2-[5-dimethoxyphosphorylamino-1,2,4-thiadiazol-3-yl]acetate (syn isomer) (358.5 mg) and sodium bicarbonate (42 mg) in N,N-dimethylacetamide (3.6 ml) was added dropwise methanesulfonyl chloride (172 mg) under cooling in an ice bath and stirring, which was continued for 1.5 hours at the same temperature. On the other hand, a mixture of 7-amino-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate dihydrochloride (400 mg) and trimethylsilylacetamide (2 g) in methylene chloride (4 ml) was stirred at room temperature to give a solution and cooled to -30° C. The cold solution was added to the activated mixture prepared above and the resulting mixture was stirred for 30 minutes at -20° to -15° C. and then for additional 20 minutes at -15° to 0° C. The mixture was poured into 6% aqueous solution of sodium bicarbonate (5 ml), adjusted to pH 3 with 6N hydrochloric acid and evaporated to remove methylene chloride. The residual aqueous solution was diluted to 72 ml with water and subjected to column chromatography on a nonionic adsorption resin "Diaion HP-20" (Trademark: prepared by Mitsubishi Chemical Industries) (36 ml). After the column was washed with water, the elution was carried out with 30% and 40% aqueous methanol successively. The fractions containing the object compound were collected, evaporated to remove methanol under reduced pressure and lyophilized to give 7-[2-allyloxyimino-2-{5-dimethoxyphosphorylamino-1,2,4-thiadiazol-3-yl}acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) 379 mg), mp. 157° to 165° C. (dec.).

reactant | sodium 2-allyloxyimino-2-[5-dimethoxyphosphorylamino-1,2,4-thiadiazol-3-yl]acetate | 358.5 mg | C(C=C)ON=C(C(=O)[O-])C1=NSC(=N1)NP(=O)(OC)OC.[Na+]
reactant | sodium bicarbonate | 42 mg | C([O-])(O)=O.[Na+]
reactant | methanesulfonyl chloride | 172 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7-amino-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate dihydrochloride | 400 mg | Cl.Cl.NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O
reactant | trimethylsilylacetamide | 2 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | N,N-dimethylacetamide | 3.6 ml | CN(C(C)=O)C | C4H9NO
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-allyloxyimino-2-{5-dimethoxyphosphorylamino-1,2,4-thiadiazol-3-yl}acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 379 mg | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)NP(=O)(OC)OC | C22H24N7O8PS2
